US07091353B2
2-(2,6-Dioxo-piperidin-3-yl)-4-[(thiophen-2-ylmethyl)-amino]-isoindole-1,3-dione I-126
3-[(Thiophen-2-ylmethyl)-amino]-phthalic acid (2.88 mmol) was treated in the same manner as described above for the synthesis of 2-(2,6-dioxo-piperidin-3-yl)-4-(2-methoxy-ethylamino)-isoindole-1,3-dione. The solid yellow residue was purified by preparative HPLC (Symmetry C18, isocratic, 35% acetonitrile/water) to give 0.31 g (29%) of product as a yellow solid: mp 223–225° C.; 1H NMR (DMSO-d6) δ 11.12 (s, 1H), 7.56 (t, J=7.8 Hz, 1H), 7.39 (d, J=4.8 Hz, 1H), 7.23–6.96 (m, 5H), 5.07 (dd, J=5.3 and 12.4 Hz, 1H), 4.75 (d, J=6.0 Hz, 2H), 2.97–2.83 (m, 1H), 2.63–2.46 (m, 2H), 2.09–1.99 (m, 1H); 13C NMR (DMSO-d6) δ 172.77, 170.03, 168.67, 167.20, 145.60, 142.51, 136.04, 132.15, 126.88, 125.40, 125.00, 117.67, 111.05, 109.80, 48.56, 40.88, 30.96, 22.10; Anal. Calcd. For C18H15N3O4S: C, 58.53; H, 4.09; N, 11.38. Found: C, 58.20; H, 3.96; N, 10.99.

reactant | 3-[(Thiophen-2-ylmethyl)-amino]-phthalic acid | 2.88 mmol | S1C(=CC=C1)CNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C13H11NO4S
reactant | 2-(2,6-dioxo-piperidin-3-yl)-4-(2-methoxy-ethylamino)-isoindole-1,3-dione | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NCCOC)=O)=O | C16H17N3O5
product | 2-(2,6-Dioxo-piperidin-3-yl)-4-[(thiophen-2-ylmethyl)-amino]-isoindole-1,3-dione | 0.31 g, 29% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NCC=1SC=CC1)=O)=O | C18H15N3O4S
